US05455348
(3S,5S)-5-[[4-[5-(N-Methoxycarbonylamidino)-2-pyridyl]phenyl]oxymethyl]-3-[(methoxycarbonyl)methyl]-2-pyrrolidinone
3 ml of 0.2M sodium hydroxide solution are added dropwise to 100 mg of (3S,5S)-5-[[4-(5-amidino-2-pyridyl)phenyl]oxymethyl]-3-[(methoxycarbonyl)methyl]-2-pyrrolidinone×1.6 HCl×1.5 H2O and 19.4 μl of methyl chloroformate in 10 ml of methylene chloride with vigorous stirring at ambient temperature. Then the mixture is stirred for a further 21/2 hours at ambient temperature. It is diluted with methylene chloride, the organic phase is separated off, dried and evaporated down.

reactant | sodium hydroxide | 0.2M, 3 ml | [OH-].[Na+]
reactant | (3S,5S)-5-[[4-(5-amidino-2-pyridyl)phenyl]oxymethyl]-3-[(methoxycarbonyl)methyl]-2-pyrrolidinone | 100 mg | C(N)(=N)C=1C=CC(=NC1)C1=CC=C(C=C1)OC[C@@H]1C[C@H](C(N1)=O)CC(=O)OC | C20H22N4O4
reactant | HCl | Cl | ClH
reactant | methyl chloroformate | 19.4 μl | ClC(=O)OC | C2H3ClO2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | (3S,5S)-5-[[4-[5-(N-Methoxycarbonylamidino)-2-pyridyl]phenyl]oxymethyl]-3-[(methoxycarbonyl)methyl]-2-pyrrolidinone | COC(=O)NC(=N)C=1C=CC(=NC1)C1=CC=C(C=C1)OC[C@@H]1C[C@H](C(N1)=O)CC(=O)OC | C22H24N4O6
